US08754226B2
A solution of (S)-tert-butyl 4-(2-(6-bromopyridin-3-yloxy)-4-hydroxybutanamido)piperidine-1-carboxylate (1.30 g, 2.84 mmol) and tributylphosphine (689 mg, 3.40 mmol) in toluene (15 mL) was degassed with nitrogen bubble for 10 minutes and then cooled to 0° C. Di-tert-butyl diazene-1,2-dicarboxylate (784 mg, 3.4 mmol) dissolved in toluene (5 mL) and was added over a 5 minute period. The reaction was allowed to warm to ambient temperature over 12 hours. The reaction was concentrated in vacuo and purified by silica gel chromatography eluting with 1:1 hexanes/EtOAc to yield (S)-tert-butyl-4-(3-(6-bromopyridin-3-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (934 mg, 75%) as an off-white solid.

reactant | (S)-tert-butyl 4-(2-(6-bromopyridin-3-yloxy)-4-hydroxybutanamido)piperidine-1-carboxylate | 2.84 mmol, 1.30 g | BrC1=CC=C(C=N1)O[C@H](C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)CCO | C19H28BrN3O5
reactant | tributylphosphine | 3.40 mmol, 689 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | Di-tert-butyl diazene-1,2-dicarboxylate | 3.4 mmol, 784 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-butyl-4-(3-(6-bromopyridin-3-yloxy)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 934 mg, 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C([C@H](CC1)OC=1C=NC(=CC1)Br)=O | C19H26BrN3O4
